US08389524B2
(2R)-2-({4-[(2,3-Dihydrofuro[2,3-c]pyridin-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j)) (70 mg, 0.232 mmol) and 2,3-dihydrofuro[2,3-c]pyridine-5-carbaldehyde (for a synthesis see WO2007122258, Example 43(f) (34.6 mg, 0.232 mmol) in chloroform (5 ml) and methanol (0.250 ml) at room temperature under nitrogen was stirred for 0.5 h (the suspension turned into a solution). Sodium triacetoxyborohydride (155 mg, 0.697 mmol) was then added and the reaction was stirred at room temperature. After 3 h there was no starting material left so a saturated aqueous solution of sodium bicarbonate (25 mL) was added followed by 20% methanol/DCM (25 mL) and the aqueous layer was extracted and then separated from the organic layer. The aqueous layer was extracted again twice with 20% methanol/DCM (2×25 mL). The combined organic extracts were dried on sodium sulphate, filtered and evaporated to afford 90 mg of crude product. The crude product was purified by silica chromatography (0-20% MeOH/DCM) to afford the free base of the title compound as a pale yellow solid (77 mg, 76%).

reactant | (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | 2,3-dihydrofuro[2,3-c]pyridine-5-carbaldehyde | O1CCC=2C1=CN=C(C2)C=O | C8H7NO2
reactant | Sodium triacetoxyborohydride | 0.697 mmol, 155 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.250 ml | CO | CH4O
solvent | methanol DCM | 25 mL | CO.C(Cl)Cl
product | (2R)-2-({4-[(2,3-Dihydrofuro[2,3-c]pyridin-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 77 mg, 76% | Cl.O1CCC=2C1=CN=C(C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C23H26N6O3.ClH/c30-21-2-1-19-23-28(21)14-18(29(23)22(31)12-26-19)13-27-6-3-16(4-7-27)24-10-17-9-15-5-8-32-20(15)11-25-17;/h1-2,9,11-12,16,18,24H,3-8,10,13-14H2;1H/t18-;/m1./s1
